US07956064B2
Ethyl 3-bromo-4-pyridine carboxylate 1.15 g, 5.0 mmol), 2-amino-4-methoxycarbonyl-phenylboronic acid (1.04 g, 4.5 mmol), sodium acetate (1.64 g, 20 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride (complexed with dichloromethane) (182 mg, 0.25 mmol) and dimethylformamide (7.5 mL) were combined in a flask. The flask was evacuated and filled with nitrogen twice and heated to 125° C. with stirring for 12 hours or until LCMS indicated the absence of any starting material. The mixture was cooled to room temperature and water (100 mL) was added to form a brown precipitate. The precipitate was filtered to yield 637 mg of methyl 5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-8-carboxylate. LCMS (ESI) 255.4 (M+1)+.

reactant | Ethyl 3-bromo-4-pyridine carboxylate | 5.0 mmol, 1.15 g | BrC=1C=NC=CC1C(=O)OCC | C8H8BrNO2
reactant | 2-amino-4-methoxycarbonyl-phenylboronic acid | 4.5 mmol, 1.04 g | NC1=C(C=CC(=C1)C(=O)OC)B(O)O | C8H10BNO4
reactant | sodium acetate | 20 mmol, 1.64 g | C(C)(=O)[O-].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride | 0.25 mmol, 182 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dimethylformamide | 7.5 mL | CN(C=O)C | C3H7NO
product | methyl 5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-8-carboxylate | 637 mg | O=C1NC2=C(C3=CN=CC=C13)C=CC(=C2)C(=O)OC | C14H10N2O3
